US05489593
1-[1,1-Dimethylethoxycarbonyl]-4-[3-(1-pyrrolidinyl)-2-pyridinyl]piperazine
1-[1,1-Dimethylethoxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine (International Publication No. WO 88/08424, 0.50 g), 1,4-dibromobutane (0.21 ml) and potassium carbonate (0.30 g) are refluxed in 4 ml of acetonitrile for 1 week. After 1 week, additional dibromobutane (0.21 ml) is added and refluxing is continued for 3 days. The reaction mixture is poured into water, extracted with methylene chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The concentrate is purified by flash chromatography eluting with ethyl acetate/hexane (10/90) to ethyl acetate/hexane (25/75). The appropriate fractions are pooled and concentrated to give the title compound, NMR (300 MHz, CDCl3) 7.78, 6.98, 6.78, 3.52, 3.20-3.10, 1.87 and 1.44 δ.

reactant | 1-[1,1-Dimethylethoxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine | 0.50 g | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1N)C | C14H22N4O2
reactant | 1,4-dibromobutane | 0.21 ml | BrCCCCBr | C4H8Br2
reactant | potassium carbonate | 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromobutane | 0.21 ml | BrC(C)C(C)Br | C4H8Br2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-[1,1-Dimethylethoxycarbonyl]-4-[3-(1-pyrrolidinyl)-2-pyridinyl]piperazine | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1N1CCCC1)C | C18H28N4O2
